US08168791B2
5-chloro-1H-indole-2-carbonyl chloride
5-Chloroindole-2-carboxylic acid (59 mg, 0.30 mmol) was suspended in dichloromethane (10 mL). Oxalyl chloride (41 μL, 0.45 mmol) and N,N-dimethylformamide (5 μL) were added, and the reaction mixture was stirred at 25° C. for 1 hour. The mixture was concentrated, and the residue was dried under high vacuum to provide the crude product which was used without additional purification.

reactant | 5-Chloroindole-2-carboxylic acid | 0.30 mmol, 59 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | Oxalyl chloride | 0.45 mmol, 41 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 5 μL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-chloro-1H-indole-2-carbonyl chloride | ClC=1C=C2C=C(NC2=CC1)C(=O)Cl | C9H5Cl2NO
